US07414060B2
6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The Al(Me)3-catalyzed reaction of 6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester and 2-Amino-4-methyl-thiazole in accordance with the general method of Example 78, step 2 yielded the title compound as a yellow cristalline solid, MS (ISP): m/e=340.9 (M+H+).

reactant | Al(Me)3 | [Al](C)(C)C
reactant | 6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)CC | C14H16N4O2
reactant | 2-Amino-4-methyl-thiazole | NC=1SC=C(N1)C | C4H6N2S
product | 6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)CC | C16H16N6OS
